* Z:\home\sabo\github\rcCar_project\spice_model\driver.asc
V1 N001 0 15
V2 A 0 PULSE(0 3.3 0.001 0.001 0.001 0.49 1)
V3 B 0 PULSE(0 3.3 0.5 0.001 0.001 0.49 1)
D1 N004 N002 D
M3 N001 A N006 N006 NMOS
D2 N005 N003 D
M1 N001 B N007 N007 NMOS
D3 N011 N009 D
M2 N006 B 0 0 NMOS
D4 N010 N008 D
M4 N007 A 0 0 NMOS
R1 N007 N006 1
.model D D
.lib C:\users\sabo\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\sabo\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 2 0 0.001
.backanno
.end
